US07855297B2
To a solution of 5-(4-bromobutoxy)-N-[(l-ethylpyrazol-4-yl)methyl]-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.52 g) in acetonitrile (10 mL) were added dimethylamine hydrochloride (0.69 g) and potassium carbonate (1.30 g), and the mixture was heated under reflux for 1.5 hr. The reaction mixture was concentrated under reduced pressure, and the residue was partitioned between water and chloroform. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated, and the residue was purified by silica gel column chromatography to give 5-[4-(dimethylamino)butoxy]-N-[(1-ethylpyrazol-4-yl)methyl]-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.27 g).

reactant | 5-(4-bromobutoxy)-N-[(l-ethylpyrazol-4-yl)methyl]-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.52 g | BrCCCCOC1=C2CCCC(C2=CC=C1)C(=O)N(C1=CC=C(C=C1)C(C)C)CC=1C=NN(C1)CC | C30H38BrN3O2
reactant | dimethylamine hydrochloride | 0.69 g | Cl.CNC
reactant | potassium carbonate | 1.30 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 5-[4-(dimethylamino)butoxy]-N-[(1-ethylpyrazol-4-yl)methyl]-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.27 g | CN(CCCCOC1=C2CCCC(C2=CC=C1)C(=O)N(C1=CC=C(C=C1)C(C)C)CC=1C=NN(C1)CC)C | C32H44N4O2
